US07235656B2
2-Amino-5-bromo-2′-chlorobenzophenone 199
2-Chlorobenzoyl chloride (177 mL, 1.4 mol) was cooled in a 2-L flask equipped with a condenser and a thermometer to 0° C. with an ice-water bath and 4-bromoaniline (100 g, 0.58 mol) was added to the cooled solution. The mixture was heated to 120° C. and kept at this temperature for 1 h until analysis by TLC indicated 4-bromoaniline had been consumed (EtOAc:hexane, 1:4). The solution was heated to 160° C. and anhydrous ZnCl2 (95 g, 0.70 mol, flamed dried) was added in one portion. The temperature was increased to 195° C. and stirring was maintained at this temperature for 3 hr until no more bubbles were evolved. The mixture was cooled to 120° C. and aq HCl (12%, 350 mL) was added dropwise slowly. The mixture was kept at reflux for 20 min, after which the aq layer was poured off. This procedure with aq HCl was repeated 4 times. Water (350 mL) was then added, and the mixture held at reflux for 20 min and then the water was poured off. This was repeated several times until the solid was not a block any more. Then H2SO4 (72%, 700 mL) was added to the residue and the mixture was heated to reflux for about 1 hr until the reaction mixture became a homogeneous dark colored solution. The hot acidic solution was poured into a mixture of ice and water with stirring. The precipitate which resulted was filtered and washed with a large amount of cold water until the pH value of the solid was about 6. The solid was then suspended in ice water and aq NaOH (40%, 290 mL) was added carefully. The mixture which resulted was stirred for 2 hrs. The solid was filtered and washed with ice water. The suspension of the solid in ice water was adjusted carefully to approximately pH=3 with aq H2SO4 (40%) dropwise. The solid which remained was filtered and washed with water to neutrality. The yellow solid 19 (66.1 g, 37.0%) was dried and used directly in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 6.49 (s, br, 2H), 6.65 (d, 1H, J=8.82 Hz), 7.26-7.8 (m, 6H).

reactant | 2-Chlorobenzoyl chloride | 1.4 mol, 177 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 4-bromoaniline | 0.58 mol, 100 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | HCl | 350 mL | Cl | ClH
reactant | H2SO4 | 700 mL | OS(=O)(=O)O | H2O4S
catalyst | ZnCl2 | 0.70 mol, 95 g | [Cl-].[Cl-].[Zn+2]
solvent | water | O | H2O
solvent | Water | 350 mL | O | H2O
product | 2-Amino-5-bromo-2′-chlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Br | C13H9BrClNO
